US04113715
Nα -(5-Amino-2-mercaptomethylpentanoyl)-L-arginine
Nα -(2-acetylthiomethyl-5-aminopentanoyl)-L-arginine trifluoroacetate (2 g) is dissolved in a mixture of water (25 ml) and concentrated ammonia (25 ml) and this solution is stored at room temperature for twenty minutes. The solution is concentrated in vacuo to ca. 5 ml and applied to a column of Dowex 50 ion exchange resin (50 ml) in the hydrogen cycle. After washing with water Nα -(5-amino-2-mercaptomethylpentanoyl)-L-arginine is eluted with a pyridine-acetate buffer at pH 6.5.

reactant | Nα -(2-acetylthiomethyl-5-aminopentanoyl)-L-arginine trifluoroacetate | 2 g | FC(C(=O)O)(F)F.C(C)(=O)SCC(C(=O)N[C@@H](CCCNC(N)=N)C(=O)O)CCCN
solvent | water | 25 ml | O | H2O
solvent | ammonia | 25 ml | N | H3N
product | Nα -(5-Amino-2-mercaptomethylpentanoyl)-L-arginine | NCCCC(C(=O)N[C@@H](CCCNC(N)=N)C(=O)O)CS | C12H25N5O3S
